US07652057B2
To a solution of methyl-3-cyclopropyl-3-oxopropionate (17 g) in acetic acid (40 mL) in a round bottom flask under argon was added phenylhydrazine (12.93 g). The mixture was immersed into an oil bath and heated to 120° C. overnight. The reaction vessel was then cooled and the acetic acid was evaporated in vacuo and the remaining solid was dissolved in EtOAc and water. The phases were separated and the aqueous phase was extracted with further EtOAc. The combined organic phases were washed with brine, dried over sodium sulfate, filtered and evaporated in vacuo and azeotroped with toluene (2×). The crude residue was then purified via trituration with a 1:1 mixture of ether/pentane to afford the desired 5-cyclopropyl-2-phenyl-2,4-dihydro-pyrazol-3-one (20.8 g) as a light brown solid. MS (ESI+): 201.3 ([M+H]+).

reactant | methyl-3-cyclopropyl-3-oxopropionate | 17 g | COC(CC(=O)C1CC1)=O | C7H10O3
reactant | phenylhydrazine | 12.93 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 5-cyclopropyl-2-phenyl-2,4-dihydro-pyrazol-3-one | 20.8 g | C1(CC1)C=1CC(N(N1)C1=CC=CC=C1)=O | C12H12N2O
